US09120777B2
C) Methyl 2-(benzyloxy)-4-cyclobutyl-5-cyclopropylbenzoate
Cyclopropylboronic acid (6.18 g) and sodium carbonate (15.3 g) were added to a mixed solution of methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate (13.5 g) in toluene (240 mL) and water (60 mL), and the mixture was deaerated for 20 minutes in an argon stream. Then, tris(dibenzylideneacetone)dipalladium(0) (6.25 g) and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (2.80 g) were added thereto, and the mixture was further deaerated for 5 minutes. The reaction mixture was stirred at 100 C for 16 hours. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. Combined organic layers were washed with water and saturated saline in this order, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (8.5 g).

reactant | Cyclopropylboronic acid | 6.18 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 15.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate | 13.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)C1CCC1)Br | C19H19BrO3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 2.80 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 6.25 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 2-(benzyloxy)-4-cyclobutyl-5-cyclopropylbenzoate | 8.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)C1CCC1)C1CC1 | C22H24O3
